US04027026
A stirred suspension of 2-(2-chloroethoxymethyl)pyridine hydrochloride and sodium azide (9.8 g.) in dry dimethylformamide (103 ml.) is maintained at 95° for 5 hours and then set aside overnight at room temperature. Following dilution with water and filtration, the filtrate is concentrated and the residue purified by chromatography on a dry column of alumina using ethanol. The product is basified with potassium carbonate (6.5 g.) in water (3 ml.) and the anhydrous residue is extracted with isopropyl alcohol (3 × 50 ml.). Concentration of the extracts gives 2-(2-azidoethoxymethyl)pyridine. Hydrogenation of the azido compound in isopropyl alcohol over platinum oxide catalyst gives 2-(2-aminoethoxymethyl)pyridine.

reactant | 2-(2-chloroethoxymethyl)pyridine hydrochloride | Cl.ClCCOCC1=NC=CC=C1
reactant | sodium azide | 9.8 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | 103 ml | CN(C=O)C | C3H7NO
product | 2-(2-azidoethoxymethyl)pyridine | N(=[N+]=[N-])CCOCC1=NC=CC=C1 | C8H10N4O
